US07115750B1
N-[3-[(N,N-Dimethylamino)methyl]-1-formyl-1,2,3,4-tetrahydo-7-quinolinyl]-4-biphenylylcarboxamide
Anhydrous acetic acid (0.1 ml) was added to formic acid (1 ml), which was stirred at 55° C. for 2 hours. N-[3-[(N,N-dimethylamino)methyl]-1,2,3,4-tetrahydo-7-quinolinyl]-4-biphenylylcarboxamide (80 mg) was added to the reaction mixture under ice-cooling, which was stirred at room temperature for 72 hours. 10% aqueous potassium carbonate solution was added to the reaction mixture to make the mixture alkaline, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was recrystallized using THF-IPE to give the titled compound (80 mg).

reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | N-[3-[(N,N-dimethylamino)methyl]-1,2,3,4-tetrahydo-7-quinolinyl]-4-biphenylylcarboxamide | 80 mg | CN(C)CC1CNC2=CC(=CC=C2C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C25H27N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | N-[3-[(N,N-Dimethylamino)methyl]-1-formyl-1,2,3,4-tetrahydo-7-quinolinyl]-4-biphenylylcarboxamide | 80 mg | CN(C)CC1CN(C2=CC(=CC=C2C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C=O | C26H27N3O2
